US07498440B2
4-[bis(4-fluorophenyl)(hydroxy)methyl]-1-[3-(phenyloxy)propyl]-1-azoniabicyclo[2.2.2]octane bromide
Following the general procedure outlined in Example 3, 1-azabicyclo[2.2.2]oct-4-yl[bis(4-fluorophenyl)]methanol (0.0538 g, 0.163 mmol) and 3-bromopropyl phenyl ether (0.0386 mL, 0.245 mmol) in 2 CH3CN/3 CHCl3 (4.0 mL) were reacted to give the desired product (0.058 g, 65.2%). EI-MS m/z 464(M+) Rt (2.16 min).

reactant | 1-azabicyclo[2.2.2]oct-4-yl[bis(4-fluorophenyl)]methanol | 0.163 mmol, 0.0538 g | N12CCC(CC1)(CC2)C(O)(C2=CC=C(C=C2)F)C2=CC=C(C=C2)F | C20H21F2NO
reactant | 3-bromopropyl phenyl ether | 0.245 mmol, 0.0386 mL | C1(=CC=CC=C1)OCCCBr | C9H11BrO
solvent | CH3CN | 4.0 mL | CC#N | C2H3N
product | 4-[bis(4-fluorophenyl)(hydroxy)methyl]-1-[3-(phenyloxy)propyl]-1-azoniabicyclo[2.2.2]octane bromide | 0.058 g, 65.2% | [Br-].FC1=CC=C(C=C1)C(C12CC[N+](CC1)(CC2)CCCOC2=CC=CC=C2)(O)C2=CC=C(C=C2)F | InChI=1S/C29H32F2NO2.BrH/c30-25-11-7-23(8-12-25)29(33,24-9-13-26(31)14-10-24)28-15-19-32(20-16-28,21-17-28)18-4-22-34-27-5-2-1-3-6-27;/h1-3,5-14,33H,4,15-22H2;1H/q+1;/p-1
